### PR TITLE
feat(RingTheory/TensorProduct/DirectLimit/FG): direct limit of finitely generated submodules and tensor product

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean [hunk 1]
```diff
@@ -0,0 +1,373 @@
...
+
+* `TensorProduct.exists_rTensor_of_fg`: any element `t:  M ⊗[R] N`  can be lifted
+to some `P ⊗[R] N`, for fome finitely generated submodule `P` of `M`.
+
+* `TensorProduct.eq_of_fg_of_subtype_eq` ;
+given a finitely generated submodule `P` of `M` and `t, t' : P ⊗[R] N`
+which have the same image in `M ⊗[R] N`, there exists a finitely generated submodule `Q` of `M`
+which contains `P` such that `t` and `t'` have the same image in `Q ⊗[R] N`.
+
+* `TensorProduct.eq_of_fg_of_subtype_eq₂` ;
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean:39]: bot fix style

**Comment by AntoineChambert-Loir** [comment]
This should probably be refactored using the tools provided by Mathlib's category theory library, in particular https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/FGModuleCat/Limits.html

**Comment by AntoineChambert-Loir** [comment]
Refactor using
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Category/FGModuleCat/Basic.html#FGModuleCat

File: Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean [hunk 2]
```diff
@@ -0,0 +1,375 @@
...
+
+section Semiring
+
+universe u v
+variable {R : Type u} [Semiring R] {M : Type*} [AddCommMonoid M] [Module R M]
+
+/-- The directed system of finitely generated submodules of `M` -/
+theorem DirectedSystem.Submodule_fg :
+    DirectedSystem (ι := {P : Submodule R M // P.FG}) (F := fun P ↦ P.val)
+    (f := fun ⦃P Q⦄ (h : P ≤ Q) ↦ Submodule.inclusion h) where
```
Comment (alreadydone) [inline Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean:79]: Is this not the same as [Module.fgSystem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Colimit/Finiteness.html#Module.fgSystem)?

File: Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean [hunk 3]
```diff
@@ -0,0 +1,375 @@
...
+      ((Module.DirectLimit.of R {P : Submodule R M // P.FG} (fun P ↦ P.val ⊗[R] N)
+        (fun ⦃_ _⦄ h ↦ LinearMap.rTensor N (Submodule.inclusion h)) ⟨P, hP⟩) u)
+      = (LinearMap.rTensor N (Submodule.subtype P)) u :=
+  by apply rTensor_fgEquiv_of
+
+/-- Given a directed system of `R`-modules, tensor it on the left gives a directed system -/
+theorem DirectedSystem.lTensor {ι : Type*} [Preorder ι] {F : ι → Type*}
+    [∀ i, AddCommMonoid (F i)] [∀ i, Module R (F i)] {f : ⦃i j : ι⦄ → i ≤ j → F i →ₗ[R] F j}
+    (D : DirectedSystem F (fun _ _ h ↦ f h)) :
+    DirectedSystem (fun i ↦ M ⊗[R] (F i)) (fun _ _ h ↦ LinearMap.lTensor M (f h)) where
```
Comment (alreadydone) [inline Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean:166]: [TensorProduct.instDirectedSystemCoeLinearMapIdLTensor](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/TensorProduct/DirectLimit.html#TensorProduct.instDirectedSystemCoeLinearMapIdLTensor)?

File: Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean [hunk 4]
```diff
@@ -0,0 +1,375 @@
...
+    ∃ (P : Submodule R M), P.FG ∧ t ∈ LinearMap.range (LinearMap.rTensor N P.subtype) := by
+  let ⟨P, u, hu⟩ := Module.DirectLimit.exists_of ((rTensor_fg_equiv R M N).symm t)
+  use P.val, P.property, u
+  rw [← rTensor_fgEquiv_of, hu, LinearEquiv.apply_symm_apply]
+
+theorem TensorProduct.eq_of_fg_of_subtype_eq {P : Submodule R M} (hP : P.FG) (t t' : P ⊗[R] N)
+    (h : LinearMap.rTensor N P.subtype t = LinearMap.rTensor N P.subtype t') :
+    ∃ (Q : Submodule R M) (hPQ : P ≤ Q), Q.FG ∧
+      LinearMap.rTensor N (Submodule.inclusion hPQ) t
+        = LinearMap.rTensor N (Submodule.inclusion hPQ) t' := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/TensorProduct/DirectLimit/FG.lean:227]: [Submodule.FG.exists_rTensor_fg_inclusion_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Colimit/TensorProduct.html#Submodule.FG.exists_rTensor_fg_inclusion_eq)?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
